US04009172
A solution of 44.0 g. (0.1575 mol) of crude 4-(1-hydroxyprop-2-en-1yl)-3-carbomethoxy-2-phenylthiazolidine, 191.5 g. (1.570 mol) of trimethylorthoacetate and 100 ml. of a 20% solution of propionic acid in benzene in 2 L. of benzene was heated for 24 hours, at 92°-93° C. The vapors were condensed and collected in a Dean-stark moisture receiver. After cooling, the resulting yellow solution was washed with 100 ml. of a 2N solution of sodium carbonate, then 3 × 100 ml. of water. Drying with magnesium sulfate and evaporation in vacuo gave 50.0 g. (95% yield) of crude methyl 5-(3-carbomethoxy-2-phenylthiazolidin-4-yl)-4-pentenoate. Gas chromatographic analysis showed a purity of 65-70%. If pure starting material is used instead in the process, no detectable impurities were detected in the final product.

reactant | 4-(1-hydroxyprop-2-en-1yl)-3-carbomethoxy-2-phenylthiazolidine | 0.1575 mol | OC(C=C)C1N(C(SC1)C1=CC=CC=C1)C(=O)OC | C14H17NO3S
reactant | trimethylorthoacetate | 1.570 mol | CC(C([O-])([O-])[O-])(C)C
reactant | propionic acid | C(CC)(=O)O | C3H6O2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | methyl 5-(3-carbomethoxy-2-phenylthiazolidin-4-yl)-4-pentenoate | 95% yield | C(=O)(OC)N1C(SCC1C=CCCC(=O)OC)C1=CC=CC=C1 | C17H21NO4S
